US04758579
10. 2-[(3,4-Dimethoxy-2-pyridyl)methylthio]-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole
0.38 g (1.7 mmol) of 2-chloromethyl-3,4-dimethoxypyridinium chloride is added to a solution of 0.46 g (1.7 mmol) of 2-mercapto-5-(1,1,2,2-tetra fluoroethoxy)-1H-benzimidazole in 10 ml of ethanol, 10 ml of water and 1.8 ml of 2N sodium hydroxide solution; after the mixture has been stirred at 20° C. for one hour, a further 10 ml of water are added dropwise. The mixture is then stirred at 20° C. for a further four hours. The solid which has precipitated out is filtered off, washed with 0.01N sodium hydroxide solution and then with water until neutral and dried to constant weight. 0.63 g (90% of theory) of the title compound is obtained as a colorless crystalline powder of m.p. 98°-102° C.

reactant | 2-chloromethyl-3,4-dimethoxypyridinium chloride | 1.7 mmol, 0.38 g | [Cl-].ClCC1=[NH+]C=CC(=C1OC)OC
reactant | 2-mercapto-5-(1,1,2,2-tetra fluoroethoxy)-1H-benzimidazole | 1.7 mmol, 0.46 g | SC1=NC2=C(N1)C=CC(=C2)OC(C(F)F)(F)F | C9H6F4N2OS
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
solvent | sodium hydroxide | 2N, 1.8 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-[(3,4-Dimethoxy-2-pyridyl)methylthio]-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole | COC=1C(=NC=CC1OC)CSC1=NC2=C(N1)C=CC(=C2)OC(C(F)F)(F)F | C17H15F4N3O3S
